US07193065B2
Boc-L-Glu(OBzl)OSu (Bachem), 434 mg (1 mmol) is reacted with L-Ala-OtBu. HCl, 182 mg (1 mmol) in 10 mL DMF containing triethylamine (202 mg). After stirring for 16 hours at room temperature, the reaction mixture is rotary evaporated to dryness and the residue is redissolved in methylene chloride, washed with water, dried over sodium sulfate and evaporated to dryness. The residue is redissolved in methanol, 50 mL, and transferred to a Parr flask. 10% Pd/C catalyst (Aldrich), 50 mg, is added and the flask is charged with 40 psi hydrogen gas on a Parr shaker. The mixture is shaken for 2 hours at room temperature or until no further consumption of hydrogen is noted. The Parr flask is evacuated and charged with argon gas. The mixture is filtered through Celite, and the filtrate is rotary evaporated to give crude Boc-L-Glu-L-Ala-OtBu.

reactant | Boc-L-Glu(OBzl)OSu | N([C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C21H26N2O8
reactant | L-Ala-OtBu | N[C@@H](C)C(=O)OC(C)(C)C | C7H15NO2
reactant | HCl | Cl | ClH
reactant | triethylamine | 202 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Boc-L-Glu-L-Ala-OtBu | N([C@@H](CCC(O)=O)C(=O)N[C@@H](C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C17H30N2O7
